US04085222
5-Methyl-2-(p-tolyl)1,3-dioxan-5-methanol
1,1,1-tris(Hydroxymethyl)ethane (12.0 g), p-tolualdehyde (12.0 g), benzene (100 ml) and toluene-p-sulphonic acid (100 mg) were heated under reflux in a Dean and Stark water trap until no more water separated. The benzene was removed and the crude product was crystallised from light petroleum (b.p. 60°-80°) ethyl acetate as white needles, m.p. 104.5°-105.5°. (cis:trans isomer ratio 82:18). The following compounds were prepared in a similar manner from 1,1,1-tris(hydroxymethyl)ethane and the corresponding aldehyde R1CHO.

reactant | 1,1,1-tris(Hydroxymethyl)ethane | 12.0 g | OCC(C)(CO)CO | C5H12O3
reactant | p-tolualdehyde | 12.0 g | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
reactant | toluene-p-sulphonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | 5-Methyl-2-(p-tolyl)1,3-dioxan-5-methanol | CC1(COC(OC1)C1=CC=C(C=C1)C)CO | C13H18O3
